US07569579B2
Preparation 14A: 1,1-dimethylethyl {[(1S,2R)-2-formyl-1-phenylcyclopropyl]methyl}methylcarbamate
1,1-dimethylethyl {[(1S,2R)-2-(hydroxymethyl)-1-phenylcyclopropyl]methyl}methylcarbamate (12.02 g, 41.2 mmol), accessed via the method of Preparation 13A, was dissolved in 200 mL DCM with 6.2 mL 2-methylpropan-2-ol and treated with Dess-Martin Periodinane (28.0 g, 66.0 mmol, 1.6 eq) in 200 mL DCM at ambient temperature for 3 h. The reaction mixture was diluted with 1 L diethyl ether and treated with 400 mL 1N NaOH at ambient temperature for 30 min. The organic phase was separated, the aqueous phase extracted twice with diethyl ether, the organic phases combined, washed with brine, dried over MgSO4, filtered and concentrated to a colorless oil. The crude material was purified by flash chromatography (SiO2, eluted with EtOAc/hexanes (1:4)) to give the title compound (10.7, 36.9 mmol, 89%). 1H NMR (400 MHz, CDCl3) δ9.77-9.65 (m, 1H), 7.33-7.23 (m, 5H), 3.75-3.63 (m, 2H), 2.72-2.50 (m, 3H), 2.26-2.19 (m, 1H), 1.87-1.81 (m, 1H), 1.65-1.61 (m, 1H), 1.31-1.18 (m, 9H). LCMS m/z 312.2 (M+Na).

reactant | 1,1-dimethylethyl {[(1S,2R)-2-(hydroxymethyl)-1-phenylcyclopropyl]methyl}methylcarbamate | 41.2 mmol, 12.02 g | OC[C@H]1[C@@](C1)(C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C | C17H25NO3
reactant | Dess-Martin Periodinane | 66.0 mmol, 28.0 g, 1.6 eq | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 1N, 400 mL | [OH-].[Na+]
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | 2-methylpropan-2-ol | 6.2 mL | CC(C)(C)O | C4H10O
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 1 L | C(C)OCC | C4H10O
product | 1,1-dimethylethyl {[(1S,2R)-2-formyl-1-phenylcyclopropyl]methyl}methylcarbamate | 36.9 mmol, 89% | C(=O)[C@H]1[C@@](C1)(C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C | C17H23NO3
